US08486977B2
2-({2-[(4-Nitrophenyl)oxy]ethyl}oxy)tetrahydro-2H-pyran
To a solution of 2-[(4-Nitrophenyl)oxy]ethanol (1 g, 5.4 mmol), in toluene (50 mL) was added 3,4-dihydro-2H-pyran (1.5 mL) and APTS (catalytic amount). The reaction was stirred at 60° C. for 3 hours. The dark solution was then concentrated and purified by flash chromatography using DCM/cyclohexane 30/70 as eluent. The title compound was obtained as an oil (1.33 g, 92%). LC: Rt: 3.12 min.

reactant | 2-[(4-Nitrophenyl)oxy]ethanol | 5.4 mmol, 1 g | [N+](=O)([O-])C1=CC=C(C=C1)OCCO | C8H9NO4
reactant | 3,4-dihydro-2H-pyran | 1.5 mL | O1CCCC=C1 | C5H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-({2-[(4-Nitrophenyl)oxy]ethyl}oxy)tetrahydro-2H-pyran | [N+](=O)([O-])C1=CC=C(C=C1)OCCOC1OCCCC1 | C13H17NO5
